US04918074
0.17 g of potassium hydroxide in 1.7 ml of water is added to a solution of 1.0 g of 3,8-diethoxycarbonyl-2-methyl-4-(3-nitrophenyl)-1,4-dihydroimidazo[1,5-a]pyrimidine in 20 ml of ethanol, and gradually heated followed by stirring at 70° C. for 10 hours. The ethanol is distilled off under reduced pressure, chloroform is added to the resulting oil and extracted with potassium carbonate solution. The water layer is washed with chloroform and adjusted to pH 5-6 with acetic acid. The precipitated crystals are collected by filtration and recrystallized from ethanol to give 0.32 g of 8-carboxy-3-ethoxycarbonyl-2-methyl-4-(3-nitrophenyl)-1,4-dihydroimidazo[1,5-a]pyrimidine, melting at 222° C. with decomposition.

reactant | potassium hydroxide | 0.17 g | [OH-].[K+]
reactant | 3,8-diethoxycarbonyl-2-methyl-4-(3-nitrophenyl)-1,4-dihydroimidazo[1,5-a]pyrimidine | 1.0 g | C(C)OC(=O)C1=C(NC=2N(C1C1=CC(=CC=C1)[N+](=O)[O-])C=NC2C(=O)OCC)C | C19H20N4O6
solvent | water | 1.7 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 8-carboxy-3-ethoxycarbonyl-2-methyl-4-(3-nitrophenyl)-1,4-dihydroimidazo[1,5-a]pyrimidine | 0.32 g | C(=O)(O)C=1N=CN2C1NC(=C(C2C2=CC(=CC=C2)[N+](=O)[O-])C(=O)OCC)C | C17H16N4O6
